US07598285B2
2-Bromo-6-(trifluoromethoxy)-1,4-dihydro-1,4-epoxynaphthalene [ref: Schlosser, M., Castgnetti, E., Eur. J. Org. Chem. 2001, 3991-3997] (1.09 g, 3.55 mmol) and NaI (1.6 g, 10.7 mmol) were dissolved in dry CH3CN (40 ml), followed by addition of TMSCl (1.35 ml, 10.7 mmol). The reaction was stirred for 2.5 h, quenched with 5% Na2SO3, and extracted with ether. The ether solution was washed with 5% Na2SO3, brine, and dried over Na2SO4. The crude product was chromatographed (SiO2, hexanes) to give 2-bromo-6-(trifluoromethoxy)naphthalene as white crystals. NMR (500 MHz, CDCl3) δ: 7.36 (dd, J=2.6, 9.0 Hz, 1H); 7.60 (dd, J=2.0, 8.8 Hz, 1H); 7.63 (br s, 1H); 7.69 (d, J=8.8 Hz, 1H); 7.77 (d, J=9.0 Hz, 1H);8.01 (d, J=2.0 Hz, 1H).

reactant | 2-Bromo-6-(trifluoromethoxy)-1,4-dihydro-1,4-epoxynaphthalene | 3.55 mmol, 1.09 g | BrC=1C2C3=CC=C(C=C3C(C1)O2)OC(F)(F)F | C11H6BrF3O2
reactant | NaI | 10.7 mmol, 1.6 g | [Na+].[I-]
reactant | TMSCl | 10.7 mmol, 1.35 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | CH3CN | 40 ml | CC#N | C2H3N
product | 2-bromo-6-(trifluoromethoxy)naphthalene | BrC1=CC2=CC=C(C=C2C=C1)OC(F)(F)F | C11H6BrF3O
